US08242125B2
(±)-5-{6-[(Acetyl-pyrrolidin-3-yl-amino)-methyl]-pyrimidin-4-yloxy}-indole-1-carboxylic acid (3-trifluoromethyl-phenyl)-amide
(±)-3-(Acetyl-{6-[1-(3-trifluoromethyl-phenylcarbamoyl)-1H-indol-5-yloxy]-pyrimidin-4-ylmethyl}-amino)-pyrrolidine-1-carboxylic acid tert-butyl ester (30 mg, 0.056 mmol) is stirred in a solution of DCM (2 mL) and TFA (0.5 mL) overnight. After removal of the solvents, the residue is quenched with saturated aqueous sodium bicarbonate. The mixture is extracted with EtOAc (3×). The combined organic layers are washed with water and brine and the organic layer is dried with Na2SO4, filtered, and condensed. The residue is then separated by FCC (0-10%, 2 mol NH3 in MeOH/DCM) to provide the title compound. MS (ESI) m/z 538.9 (M+1).

reactant | (±)-3-(Acetyl-{6-[1-(3-trifluoromethyl-phenylcarbamoyl)-1H-indol-5-yloxy]-pyrimidin-4-ylmethyl}-amino)-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.056 mmol, 30 mg | C(C)(C)(C)OC(=O)N1CC(CC1)N(CC1=NC=NC(=C1)OC=1C=C2C=CN(C2=CC1)C(NC1=CC(=CC=C1)C(F)(F)F)=O)C(C)=O | C32H33F3N6O5
reactant | DCM | 2 mL | C(Cl)Cl | CH2Cl2
reactant | TFA | 0.5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | NH3 | 2 mol | N | H3N
solvent | MeOH DCM | CO.C(Cl)Cl
product | (±)-5-{6-[(Acetyl-pyrrolidin-3-yl-amino)-methyl]-pyrimidin-4-yloxy}-indole-1-carboxylic acid (3-trifluoromethyl-phenyl)-amide | FC(C=1C=C(C=CC1)NC(=O)N1C=CC2=CC(=CC=C12)OC1=NC=NC(=C1)CN(C1CNCC1)C(C)=O)(F)F | C27H25F3N6O3
